US06821971B2
Preparation of 2-(4-fluorophenyl)-1-(2-phenoxy-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester (22):
To a solution of 2-(4fluorophenyl)-1-(3-methanesulfonyl-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester, 21, (0.033 g, 0.074 mmol) in THF (3 mL) is added phenol and NaH (0.009 g, 0.22 mmol). The reaction mixture is stirred at room temperature for 1 hour. The reaction is quenched by the addition of 1 N HCl (20 mL) and the solution is extracted with ethyl acetate (3×25 mL). The organic phases are combined, washed with brine, dried, and concentrated in vacuo to afford the crude product which is purified over silica (hexanes/ethyl acetate 1:3) to afford 0.012 g (35% yield) of the desired product as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.64 (d, J=4.6 Hz 1 H), 7.59-7.63 (m, 2 H), 7.40-7.45 (m, 3 H), 7.28-7.30 (m, 1 H), 7.18 (d, J=8.4 Hz, 2 H), 7.03-7.08 (m, 2 H), 4.50-4.56 (m, 1 H), 3.99-4.04 (m, 1 H), 3.86 (s, 1 H), 3.01-3.10 (m, 1 H), 2.33-2.41 (m, 1 H), 1.86 (brs, 2 H), 1.64 (brs, 3 H); ESI/MS: 461 (M+H).

reactant | 2-(4fluorophenyl)-1-(3-methanesulfonyl-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester | COC(=O)C1N2N(CCC1)C(=C(C2=O)C2=CC=C(C=C2)F)C=2N(CN=CC2)S(=O)(=O)C | C20H21FN4O5S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | NaH | 0.22 mmol, 0.009 g | [H-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(4-fluorophenyl)-1-(2-phenoxy-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester | 0.012 g, 35% yield | COC(=O)C1N2N(CCC1)C(=C(C2=O)C2=CC=C(C=C2)F)C2=NC(=NC=C2)OC2=CC=CC=C2 | C25H21FN4O4
